US06969712B2
1) 4-Chloro-6-fluoro-2-nitro-5-[4-(2-hydroxyethyl)piperazin-1-yl]-aniline
To a solution of 6.79 g of 4-chloro-2,3-difluoro-6-nitroaniline (which was synthesized following WO9856761 or WO9835977) and 4.70 g of 1-piperazine ethanol in 30 ml of dimethylsulfoxide, 9.23 g of potassium carbonate was added, followed by an hour's stirring at 50° C. After cooling the reaction liquid to room temperature, water was added thereto, followed by extraction with chloroform. The chloroform layer was dried on anhydrous magnesium sulfate, the solvent was distilled off and 6.98 g of the title compound in crude form was obtained as a yellow oily substance.

reactant | 4-chloro-2,3-difluoro-6-nitroaniline | 6.79 g | ClC1=C(C(=C(N)C(=C1)[N+](=O)[O-])F)F | C6H3ClF2N2O2
reactant | 1-piperazine ethanol | 4.70 g | N1(CCNCC1)CCO | C6H14N2O
reactant | potassium carbonate | 9.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-Chloro-6-fluoro-2-nitro-5-[4-(2-hydroxyethyl)piperazin-1-yl]-aniline | 6.98 g | ClC1=CC(=C(N)C(=C1N1CCN(CC1)CCO)F)[N+](=O)[O-] | C12H16ClFN4O3
